US06114358
a) Ethyl 5-chloromethylisoxazole-3-carboxylate
21.2 g (210 mmol) of triethylamine were added dropwise to a stirred mixture of 30 g (198 mmol) of ethyl 2-chloro-2-hydroxyiminoacetate and 150 ml of propargyl chloride cooled to 10-15° C. and, after stirring at room temperature for 1 h, water was added, the mixture was extracted with ether, and the organic phase was dried over magnesium sulfate and concentrated in a rotary evaporator. The residue was distilled under 0.5 torr, the product distilling over at 116-122° C.

reactant | triethylamine | 210 mmol, 21.2 g | C(C)N(CC)CC | C6H15N
reactant | ethyl 2-chloro-2-hydroxyiminoacetate | 198 mmol, 30 g | ClC(C(=O)OCC)=NO | C4H6ClNO3
reactant | propargyl chloride | 150 ml | C(C#C)Cl | C3H3Cl
solvent | water | O | H2O
product | Ethyl 5-chloromethylisoxazole-3-carboxylate | ClCC1=CC(=NO1)C(=O)OCC | C7H8ClNO3
